US07799804B2
1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester
To N-(4-benzyloxyphenyl)-2,4-dichlorobenzamidine, from Ex. 1, Step 1 (6.88 g, 18.5 mmol) dissolved in 50 ml THF was added potassium carbonate (2.56 g, 18.5 mmol) and the suspension was stirred for 10 minutes. Ethyl-3-bromo-2-oxobutanoate (4.65 g, 22.2 mmol) was dropwise added over 1 hour, and the mixture was stirred for 66 hours at room temperature. The solution was filtered and evaporated to dryness. The residue was dissolved in acetic acid and refluxed for 1 hour. The mixture was cooled to room temperature, 100 ml water added and the product extracted with EtOAc (2×200 ml). The combined organic phases were washed with saturated sodium hydrogen carbonate, dried (Na2SO4), filtered and concentrated. Flash chromatography (silica, hexane:EtOAc 70:30, 60:40) afforded 5.75 g (65%) of the title compound as a pale yellow solid.

reactant | N-(4-benzyloxyphenyl)-2,4-dichlorobenzamidine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=N | C20H16Cl2N2O
reactant | potassium carbonate | 18.5 mmol, 2.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl-3-bromo-2-oxobutanoate | 22.2 mmol, 4.65 g | C(C)OC(C(C(C)Br)=O)=O | C6H9BrO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester | 5.75 g, 65% | C(C)OC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C26H22Cl2N2O3
